US04283341
A mixture of (2R)-1,1,1-trichloro-4-methyl-3-penten-2-ol (1.50 g., 7.35 mmole) from Example IA.1.(a) and a trace of sodium acetate was treated under nitrogen at 100° with freshly distilled diketene (0.70 g, 8.36 mmole) added dropwise over 1 hr. After stirring and heating an additional hour at 80°-83°, the cooled reaction mixture was diluted with 3 ml of CH2Cl2 and chromatographed on 8 (20×20 cm) preparative tlc plates, developed in CH2Cl2. Isolation and extraction afforded (1R)-3-methyl-1-trichloromethyl-2-butenyl acetoacetate (1.80 g, 85% isolated yield) as a pale yellow oil; [α]D31 =+21.1° (hexane).

reactant | (2R)-1,1,1-trichloro-4-methyl-3-penten-2-ol | 7.35 mmole, 1.50 g | ClC([C@@H](C=C(C)C)O)(Cl)Cl | C6H9Cl3O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | diketene | 8.36 mmole, 0.70 g | C=C1CC(=O)O1 | C4H4O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (1R)-3-methyl-1-trichloromethyl-2-butenyl acetoacetate | 1.80 g, 85% | C(CC(=O)C)(=O)O[C@H](C=C(C)C)C(Cl)(Cl)Cl | C10H13Cl3O3
